US08686184B2
2-t-Butoxycarbonylphenylboronic acid pinacol ester (173 mg, 568 μmol, 1.2 eq.) and toluene (661 μL) were added to (2R,3R)-3-(3-bromo-4-fluoro-benzoylamino)-2-hydroxy-4-phenyl-butyric acid ethyl ester (201 mg, 474 μmol, 1.0 eq.), followed by EtOH (361 μL) then K2CO3 (131 mg, 947 μmol, 2.0 eq.) predissolved in water (124 μL). The mixture was stirred to aid in dissolution. The reaction vessel was purged with nitrogen then Pd(PPh3)4 (54.7 mg, 47.4 μmol) was added quickly. The reaction vessel was capped and heated to 100° C. for 30 minutes. The organics were removed and evaporated under vacuum to yield 5′-((1R,2R)-1-benzyl-2-ethoxycarbonyl-2-hydroxy-ethylcarbamoyl)-2′-fluoro-biphenyl-2-carboxylic acid t-butyl ester.

reactant | 2-t-Butoxycarbonylphenylboronic acid pinacol ester | 568 μmol, 173 mg, 1.2 eq. | C(C)(C)(C)OC(=O)C1=C(C=CC=C1)B1OC(C)(C)C(C)(C)O1 | C17H25BO4
reactant | toluene | 661 μL | C1(=CC=CC=C1)C | C7H8
reactant | (2R,3R)-3-(3-bromo-4-fluoro-benzoylamino)-2-hydroxy-4-phenyl-butyric acid ethyl ester | 474 μmol, 201 mg, 1.0 eq. | C(C)OC([C@@H]([C@@H](CC1=CC=CC=C1)NC(C1=CC(=C(C=C1)F)Br)=O)O)=O | C19H19BrFNO4
reactant | K2CO3 | 947 μmol, 131 mg, 2.0 eq. | C(=O)([O-])[O-].[K+].[K+]
solvent | water | 124 μL | O | H2O
catalyst | Pd(PPh3)4 | 47.4 μmol, 54.7 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | EtOH | 361 μL | CCO | C2H6O
product | 5′-((1R,2R)-1-benzyl-2-ethoxycarbonyl-2-hydroxy-ethylcarbamoyl)-2′-fluoro-biphenyl-2-carboxylic acid t-butyl ester | C(C)(C)(C)OC(=O)C=1C(=CC=CC1)C1=C(C=CC(=C1)C(N[C@@H]([C@@H](O)C(=O)OCC)CC1=CC=CC=C1)=O)F | C30H32FNO6
